US05652271
A solution of bromine (18 ml) in chloroform (80 ml) was added dropwise at 10°-15° C. over 1.5 hours to a stirred solution of the above 1-[1-(3,4-dichlorophenyl)-cyclobutyl]ethanone (89.6 g) in a mixture of methanol (120 ml) and chloroform (20 ml). When the addition was complete, the mixture was stirred at ambient temperature for 1 hour, then poured onto an excess of ice-water. The aqueous layer was separated and the product extracted into dichloromethane (2×150 ml). The combined organic solutions were washed with saturated aqueous sodium hydrogen carbonate solution (2×200 ml) then with water, dried over calcium chloride and the solvent removed in vacuo to yield an oil. The oil was distilled to give 2-bromo-l-[1-(3,4-dichlorophenyl)-cyclobutyl]ethanone (88.31 g), b.p. 148°-154° C./0.66 mbar.

reactant | bromine | 18 ml | BrBr | Br2
reactant | 1-[1-(3,4-dichlorophenyl)-cyclobutyl]ethanone | 89.6 g | ClC=1C=C(C=CC1Cl)C1(CCC1)C(C)=O | C12H12Cl2O
solvent | chloroform | 80 ml | C(Cl)(Cl)Cl | CHCl3
solvent | methanol | 120 ml | CO | CH4O
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-bromo-l-[1-(3,4-dichlorophenyl)-cyclobutyl]ethanone | 88.31 g | BrCC(=O)C1(CCC1)C1=CC(=C(C=C1)Cl)Cl | C12H11BrCl2O
